US05268379
Step 2: 4-hydroxy-4-[3-(tetrahydropyran-2-yloxy)-trans-prop-1-enyl]-2-methyltetrahydropyran
The desired compound was prepared according to the method of Example 3, step 1, except substituting 4-hydroxy-4-[3-tetrahydropyran-2-yloxy)-prop-1-ynyl]-2-methyltetrahydropyran, prepared as in step 1, for 4-hydroxy-4-[3-(tetrahydropyran-2-yloxy)-prop-1-ynyl]tetrahydropyran.

reactant | 2-methyltetrahydropyran | CC1OCCCC1 | C6H12O
reactant | 4-hydroxy-4-[3-(tetrahydropyran-2-yloxy)-prop-1-ynyl]tetrahydropyran | OC1(CCOCC1)C#CCOC1OCCCC1 | C13H20O4
product | 4-hydroxy-4-[3-(tetrahydropyran-2-yloxy)-trans-prop-1-enyl]-2-methyltetrahydropyran | OC1(CC(OCC1)C)\C=C\COC1OCCCC1 | C14H24O4
